US05917057
A solution of 6,11-dihydro-11-oxodibenz[b,e]oxepin-2-acetic acid (100 g) in 450 ml dry tetrahydrofuran (THF) at -5° C. was treated with a 1M solution of borane-THF complex (373 ml in THF) under a nitrogen blanket. After stirring at ambient temperature for 72 hours, the reaction was quenched with methanol then diluted with water. Evaporation of the organic phase left an oily biphase which was basified with saturated sodium bicarbonate and extracted into dichloromethane. The organic phase was dried and evaporated to an oil which was purified by flash chromatography to give 14 g of 2-(6,11-dihydrodibenz[b,e]oxepin-2-yl)ethanol as an oil.

reactant | 6,11-dihydro-11-oxodibenz[b,e]oxepin-2-acetic acid | 100 g | O=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)CC(=O)O | C16H12O4
reactant | borane THF | 373 ml | B.O1CCCC1
solvent | tetrahydrofuran | 450 ml | O1CCCC1 | C4H8O
product | 2-(6,11-dihydrodibenz[b,e]oxepin-2-yl)ethanol | 14 g | C1=C(C=CC=2OCC3=C(CC21)C=CC=C3)CCO | C16H16O2
